US09120749B2
1-(6-Bromo-4-chloroquinolin-3-yl)-2-methylpropan-1-one
1-(6-Bromo-4-hydroxyquinolin-3-yl)-2-methylpropan-1-one (16.0 g, 54.4 mmol) was added to phosphoryl chloride (160 mL) and the reaction was stirred at 85° C. for 1.5 h. The reaction mixture was cooled and slowly poured into a 2:1 solution of satd. aq. sodium bicarbonate/ethyl acetate at 0° C. The organic layer was separated and was washed with satd. aq. sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford the desired product (14.8 g, 89%) as a yellow solid: ESI MS m/z 312 [C13H11BrClNO+H]+.

reactant | 1-(6-Bromo-4-hydroxyquinolin-3-yl)-2-methylpropan-1-one | 54.4 mmol, 16.0 g | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)O | C13H12BrNO2
reactant | sodium bicarbonate ethyl acetate | C([O-])(O)=O.[Na+].C(C)(=O)OCC
reactant | phosphoryl chloride | 160 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(6-Bromo-4-chloroquinolin-3-yl)-2-methylpropan-1-one | 14.8 g, 89% | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)Cl | C13H11BrClNO
